US06020349
To a mixture of 1-(2-pyridyl)piperazine (10 ml, 64.37 mmol) in dichloromethane (200 ml) was added N-benzoyidimethyldithioimidocarbonate (14.64 g, 65.01 mmol) and the reaction mixture was stirred for 18 h at room temperature. The volatiles were evaporated in vacuo and the residue crystallised from a mixture of heptane/diethyl ether 9:1. The solid was filtered off, washed with a mixture of heptaneldiethyl ether 1:1 and dried in vacuo affording 20.86 g of N-[methylsulfanyl-(4-(pyridin-2-yl)piperazin-1-yl)methylene]-benzamide as a solid.

reactant | 1-(2-pyridyl)piperazine | 64.37 mmol, 10 ml | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | N-benzoyidimethyldithioimidocarbonate | 65.01 mmol, 14.64 g | C(C1=CC=CC=C1)(=O)N=C([S-](C)C)[S-]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-[methylsulfanyl-(4-(pyridin-2-yl)piperazin-1-yl)methylene]-benzamide | 20.86 g | CSC(=NC(C1=CC=CC=C1)=O)N1CCN(CC1)C1=NC=CC=C1 | C18H20N4OS
